US04298529
To a solution of ethyl 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyrate (syn isomer, 10.4 g) in ethanol (30 ml) was added an aqueous solution (10 ml) of sodium hydroxide (3.3 g) under ice-cooling, and the mixture was stirred for 30 minutes at ambient temperature. The reaction mixture was adjusted to pH 7 with 20% sulfuric acid under ice-cooling and stirring, and water (30 ml) was added thereto, and then the solvents are distilled off. To the residue was added water (30 ml), and the resultant solution was washed with diisopropyl ether (50 ml). To the aqueous solution was added diisopropyl ether (100 ml), adjusted to pH 2 with 20% sulfuric acid under ice-cooling and stirring and then saturated with sodium chloride. The diisopropyl ether layer was separated, and the remaining aqueous layer was further extracted with diisopropyl ether. The diisopropyl ether layer and extracts were combined together, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, treated with an activated carbon and then filtered. The filtrate was concentrated and the remaining oil was allowed to stand for 1 hour under reduced pressure to give crystals of 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyric acid (syn isomer), mp 80°-81° C. in yield of 99.6%.

reactant | ethyl 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyrate | 10.4 g | CON=C(C(=O)OCC)C1(CCl)OCCO1 | C9H14ClNO5
reactant | sodium hydroxide | 10 ml, 3.3 g | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | 30 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyric acid | yield of 99.6% | CON=C(C(=O)O)C1(CCl)OCCO1 | C7H10ClNO5
